US07932394B2
5 g of dl-maleic acid was dissolved in 20 ml of acetyl chloride, and stirred under heat at 45° C. for 3 hours. Acetyl chloride was evaporated away under reduced pressure, the resulting crude product was dissolved in 30 ml of methanol, and stirred overnight. The solvent was evaporated away under reduced pressure to obtain 5.3 g of 3-(acetyloxy)-4-methoxy-4-oxobutanoic acid as a pale yellow oil. In an ice bath, 10 ml of borane-dimethylsulfide complex (10 M) was added to a tetrahydrofuran (25 ml) solution of 5.3 g of 3-(acetyloxy)-4-methoxy-4-oxobutanoic acid, and stirred at room temperature for 24 hours. Aqueous 10% citric acid was added to the reaction liquid, extracted with chloroform, and the organic layer was washed with saturated saline water. After dried, the solvent was evaporated away under reduced pressure to obtain 5.1 g of methyl 2-(acetyloxy)-4-hydroxybutanoate as a colorless transparent oil.

reactant | 3-(acetyloxy)-4-methoxy-4-oxobutanoic acid | 5.3 g | C(C)(=O)OC(CC(=O)O)C(=O)OC | C7H10O6
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | methyl 2-(acetyloxy)-4-hydroxybutanoate | 5.1 g | C(C)(=O)OC(C(=O)OC)CCO | C7H12O5
